US07348325B2
D) N-(3-Fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
To a solution of 3-fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine (62 mg, 0.24 mmol) in dichloromethane (2 mL) and pyridine (0.5 mL), was added dropwise a solution of 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonyl chloride (30 mg, 0.12 mmol) in dichloromethane (0.5 mL). The reaction mixture was stirred at rt for 30 min, and then concentrated to dryness. The residue was washed with methanol. The solid that formed was collected by filtration and dried under vaccum to give the title compound (35 mg, 61%). 1H NMR (DMSO-d6) δ 12.10 (br s, 1H), 8.58 (dd, 1H, J=7.15, 2.20 Hz), 8.12 (dd, 1H, J=6.60, 1.65 Hz), 7.98 (s, 1H), 7.95 (d, 2H, J=2.75 Hz), 7.62-7.58 (m, 2H), 7.40-7.47 (m, 4H), 6.78 (d, 1H, J=2.75 Hz), 6.72 (t, 1H, J=7.15 Hz), 2.54 (s, 3H); MS(ESI+) m/z 474.23 (M+H)+.

reactant | 3-fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine | 0.24 mmol, 62 mg | FC=1C=C(C=CC1OC1=NC=NN2C1=C(C=C2)C)N | C13H11FN4O
reactant | 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonyl chloride | 0.12 mmol, 30 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1)C(=O)Cl)=O | C12H7ClFNO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(3-Fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 35 mg, 61% | FC=1C=C(C=CC1OC1=NC=NN2C1=C(C=C2)C)NC(=O)C=2C(N(C=CC2)C2=CC=C(C=C2)F)=O | C25H17F2N5O3
